US05084457
To a stirred mixture of 10 g of 2-amino-N-phenylbenzamide and 500 ml of ether was added dropwise, a solution of 7.7 g of benzoyl isothiocyanate in 100 ml of ether over 20 minutes. After standing several hours the solid was collected, giving 17.3 g of 2-[[(benzoylamino)thioxomethyl]amino]-N-phenylbenzamide.

reactant | 2-amino-N-phenylbenzamide | 10 g | NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H12N2O
reactant | benzoyl isothiocyanate | 7.7 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-[[(benzoylamino)thioxomethyl]amino]-N-phenylbenzamide | 17.3 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C21H17N3O2S
